US07291635B2
A solution of the title D compound, 5-[5-(2,4-dimethoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl]-thiophene-2-carboxylic acid (220 mg, 0.52 mmol) in toluene (10 mL) is treated with SOCl2 (3 mL) and the mixture is heated at 80° C. for 1 h. The volatiles are evaporated and the residue is dissolved in toluene. The solvent is evaporated again and the residue is dissolved in CH2Cl2(10 mL). A mixture of N-methylphenethylamine (35 mg, 0.25 mmol) and triethylamine (39 mg, 38.7 mmol) in CH2Cl2 (1 mL) is added and the mixture is stirred for 16 h. The solvent is evaporated and the residue is chromatographed over silica gel using 0-100% EtOAc in hexane as the eluent to afford 5-[5-(2,4-dimethoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl]-thiophene-2-carboxylic acid methyl-phenethyl-amide as a clear oil: [M+1]+=544.

reactant | 5-[5-(2,4-dimethoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl]-thiophene-2-carboxylic acid | 0.52 mmol, 220 mg | COC1=C(CN2C(CN(S2(=O)=O)CC2=CC=C(S2)C(=O)O)=O)C=CC(=C1)OC | C17H18N2O7S2
reactant | SOCl2 | 3 mL | O=S(Cl)Cl | Cl2OS
reactant | N-methylphenethylamine | 0.25 mmol, 35 mg | CNCCC1=CC=CC=C1 | C9H13N
reactant | triethylamine | 38.7 mmol, 39 mg | C(C)N(CC)CC | C6H15N
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 5-[5-(2,4-dimethoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl]-thiophene-2-carboxylic acid methyl-phenethyl-amide | CN(C(=O)C=1SC(=CC1)CN1S(N(C(C1)=O)CC1=C(C=C(C=C1)OC)OC)(=O)=O)CCC1=CC=CC=C1 | C26H29N3O6S2
